US06890947B2
In analogy to the procedure described in example 44, rac-2-ethoxy-3-(4-methyl-1H-indol-5-yl)-propionic acid ethyl ester [preparation 10h)] was reacted with 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole to give rac-2-ethoxy-3-{4-methyl-1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic acid as yellow solid.

reactant | rac-2-ethoxy-3-(4-methyl-1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C(=C2C=CNC2=CC1)C)OCC)=O | C16H21NO3
reactant | 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
product | rac-2-ethoxy-3-{4-methyl-1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic acid | C(C)OC(C(=O)O)CC=1C(=C2C=CN(C2=CC1)CC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)C | C26H25F3N2O4
